US04640849
Isovanillin (76 g) was dissolved in a stirred mixture of potassium carbonate (104 g) and acetone (450 mls) followed by the dropwise addittion of allyl bromide (67 g) over ca. 20 mins. The mixture was refluxed for 5 hours, cooled and filtered. The solvent was removed from the filtrate under reduced pressure and the residue was distilled under vacuum to yield 3-allyloxy-4-methoxybenzaldehyde (85 g), b.p. 137°-150° C. at 1.5 mbar.

reactant | Isovanillin | 76 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | allyl bromide | 67 g | C(C=C)Br | C3H5Br
solvent | potassium carbonate | 104 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 450 mls | CC(=O)C | C3H6O
product | 3-allyloxy-4-methoxybenzaldehyde | 85 g | C(C=C)OC=1C=C(C=O)C=CC1OC | C11H12O3
